US07470790B2
Synthesis of [6-(4-tert-butoxycarbonylamino-2-oxo-cyclopentylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester (IV-4)
Tetrapropylammonium perruthenate (0.07 mmol, 5 mol %) was added to a stirred solution of [6-(4-tert-butoxycarbonylamino-2-hydroxy-cyclopentylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester IV-3 (0.14 mmol) and N-methylmorpholine-N-oxide (0.26 mmol) in dichloromethane (9 mL) and acteonitrile (1 mL) at room temperature, and was allowed to react overnight. When complete, the solvent was evaporated in vacuo and the residue was purified by column chromatography (silica gel, CH2Cl2:EtOAc, 8:2) to afford pure product as a white solid (67%).

reactant | [6-(4-tert-butoxycarbonylamino-2-hydroxy-cyclopentylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1C(CC(C1)NC(=O)OC(C)(C)C)O)=O | C21H33N3O5
reactant | N-methylmorpholine-N-oxide | 0.26 mmol | C[N+]1(CCOCC1)[O-] | C5H11NO2
solvent | dichloromethane | 9 mL | ClCCl | CH2Cl2
solvent | acteonitrile | 1 mL | C(C)#N | C2H3N
catalyst | Tetrapropylammonium perruthenate | 0.07 mmol | [Ru](=O)(=O)(=O)[O-].C(CC)[N+](CCC)(CCC)CCC
product | [6-(4-tert-butoxycarbonylamino-2-oxo-cyclopentylmethyl)-pyridin-2-yl]-carbamic acid tert-butyl ester | 67% | C(C)(C)(C)OC(NC1=NC(=CC=C1)CC1C(CC(C1)NC(=O)OC(C)(C)C)=O)=O | C21H31N3O5
